US07737149B2
MP carbonate (2.74 mmol/g) (12.00 g, 32.88 mmol) was added to 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine hydrochloride (5 g, 17.50 mmol) in methanol (200 mL) and water (20 mL). The resulting suspension was stirred at room temperature for 18 h. The reaction mixture was filtered and MP carbonate was washed with 10% MeOH in DCM. This was evaporated to dryness to afford 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine (2.94 g, 67.5%) as an orange waxy solid.

reactant | carbonate | 32.88 mmol, 12.00 g | C([O-])([O-])=O
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine hydrochloride | 17.50 mmol, 5 g | Cl.COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine | 2.94 g, 67.5% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N | C12H15N3O3
